US07884207B2
A mixture of tert-butyl 4-hydroxy-4-(nitromethyl)piperidine-1-carboxylate (20.42 g, 78.4 mmol) and 20% palladium hydroxide on carbon (1.21 g) in ethanol (250 mL) was hydrogenated at 40 psi (2.8×105 Pa) for 3 d on a Parr apparatus. More 20% palladium hydroxide on carbon (1.0 g) was added and the hydrogenation was continued for 2 more days. The mixture was filtered through CELITE filter agent and the filtrate was concentrated to provide tert-butyl 4-(aminomethyl)-4-hydroxypiperidine-1-carboxylate, which was concentrated from toluene (200 mL) to remove residual ethanol before use in the next reaction.

reactant | tert-butyl 4-hydroxy-4-(nitromethyl)piperidine-1-carboxylate | 78.4 mmol, 20.42 g | OC1(CCN(CC1)C(=O)OC(C)(C)C)C[N+](=O)[O-] | C11H20N2O5
solvent | ethanol | 250 mL | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 1.21 g | [OH-].[OH-].[Pd+2]
catalyst | palladium hydroxide on carbon | 1.0 g | [OH-].[OH-].[Pd+2]
product | tert-butyl 4-(aminomethyl)-4-hydroxypiperidine-1-carboxylate | NCC1(CCN(CC1)C(=O)OC(C)(C)C)O | C11H22N2O3
